US06319920B1
A mixture of 1-(4-bromophenyl)propan-2-one (5 grams, 23.5 mmole), ethylamine hydrochloride (19 grams, 0.23 mole) and sodium cyanoborohydride (2.22 grams, 0.035 mole) in methanol (100 ml) was stirred at 22° C. for 16 hours. The mixture was concentrated under reduced pressure and the residue was partitioned between 1.0N sodium hydroxide (25 ml) and ethyl ether (60 ml). The organic phase was dried (anhydrous magnesium sulfate) and concentrated under reduced pressure. The oily base was converted to the hydrochloride salt and recrystallized from ethanol/ethyl ether to give [2-(4-bromophenyl)-1-methylethyl]ethylamine hydrochloride (3.8 grams, 58%), m.p. 175-176° C.

reactant | 1-(4-bromophenyl)propan-2-one | 23.5 mmole, 5 grams | BrC1=CC=C(C=C1)CC(C)=O | C9H9BrO
reactant | ethylamine hydrochloride | 0.23 mole, 19 grams | Cl.C(C)N
reactant | sodium cyanoborohydride | 0.035 mole, 2.22 grams | C(#N)[BH3-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | [2-(4-bromophenyl)-1-methylethyl]ethylamine hydrochloride | 3.8 grams, 58% | Cl.BrC1=CC=C(C=C1)CC(C)NCC | InChI=1S/C11H16BrN.ClH/c1-3-13-9(2)8-10-4-6-11(12)7-5-10;/h4-7,9,13H,3,8H2,1-2H3;1H
